US06150373
A mixture of 160 mg (0.45 mmol) of 3-(2-chloro-6-methylphenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 300 mg (1.4 mmol) of 4-[2-(diethylamino)ethoxy]aniline was heated at 180° C. for 35 minutes and then cooled. The residue was subjected to column chromatography on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined and evaporated and the residue was evaporated with toluene. The residue was then dissolved in 30 ml of dichloromethane, washed twice with 20 ml of saturated aqueous sodium bicarbonate solution each time, dried over magnesium sulfate, filtered and evaporated. The residue was purified further by HPLC. The mobile phase was water/0.1% trifluoroacetic acid (A) and acetonitrile/0.07% trifluoroacetic acid (B); the gradient was 5%-95% B over 20 minutes; and the product was detected using an ultraviolet detector at a wavelength of 215 nm. Product-containing fractions were lyophilized and the lyophilisate was dissolved in 30 ml of dichloromethane, washed twice with 20 ml of saturated aqueous sodium bicarbonate solution each time, dried over magnesium sulfate, filtered and evaporated to give 5 mg (2%) of 3-(2-chloro-6-methylphenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a yellow gum. [Mass spectrum (ESI) MH+ =495].

reactant | 3-(2-chloro-6-methylphenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.45 mmol, 160 mg | ClC1=C(C(=CC=C1)C)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C15H15ClN4O3S
reactant | 4-[2-(diethylamino)ethoxy]aniline | 1.4 mmol, 300 mg | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
solvent | dichloromethane methanol acetic acid water | ClCCl.CO.C(C)(=O)O.O
product | 3-(2-chloro-6-methylphenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 5 mg, 2% | ClC1=C(C(=CC=C1)C)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C)=O | C26H31ClN6O2
